US09388161B2
A 50-mL round-bottom flask was charged with methyl (2S)-6-(1-[1-[(tert-butoxy)carbonyl]-3-hydroxypiperidin-4-yl]-1H-pyrazol-4-yl)-5-cyclobutoxy-2-methyl-1,2,3,4-tetrahydroquinoline-1-carboxylate (250 mg, 0.46 mmol,) and N,N-dimethylformamide (5 mL). Sodium hydride (78 mg, 3.25 mmol,) was added, and the mixture stirred at room temperature for 30 minutes. Methyl iodide (0.079 mL, 1.28 mmol) was added, and the resulting solution stirred for 4 h at room temperature. The reaction mixture was then poured into 20 mL of water and extracted with ethyl acetate (3×20 mL). The organic layers were combined, dried over anhydrous sodium sulfate, filtered, and concentrated under vacuum. The residue was purified via column chromatography on silica gel (eluting with 1:5, ethyl acetate/petroleum ether) to afford (2S)-methyl 6-(1-(1-(tert-butoxycarbonyl)-3-methoxypiperidin-4-yl)-1H-pyrazol-4-yl)-5-cyclobutoxy-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate (80 mg, 31%) as colorless oil. MS (ESI, pos. ion) m/z 555 [M+H]+.

reactant | methyl (2S)-6-(1-[1-[(tert-butoxy)carbonyl]-3-hydroxypiperidin-4-yl]-1H-pyrazol-4-yl)-5-cyclobutoxy-2-methyl-1,2,3,4-tetrahydroquinoline-1-carboxylate | 0.46 mmol, 250 mg | C(C)(C)(C)OC(=O)N1CC(C(CC1)N1N=CC(=C1)C=1C(=C2CC[C@@H](N(C2=CC1)C(=O)OC)C)OC1CCC1)O | C29H40N4O6
reactant | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
reactant | Sodium hydride | 3.25 mmol, 78 mg | [H-].[Na+]
reactant | Methyl iodide | 1.28 mmol, 0.079 mL | CI | CH3I
solvent | water | 20 mL | O | H2O
product | (2S)-methyl 6-(1-(1-(tert-butoxycarbonyl)-3-methoxypiperidin-4-yl)-1H-pyrazol-4-yl)-5-cyclobutoxy-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate | 80 mg, 31% | C(C)(C)(C)OC(=O)N1CC(C(CC1)N1N=CC(=C1)C=1C(=C2CC[C@@H](N(C2=CC1)C(=O)OC)C)OC1CCC1)OC | C30H42N4O6
